US07109229B2
(e) 13-(3-Bromopropyl)-5-methyl-7H-indolo[6,7-a]pyrrolo[3,4-c]-carbazole-6,8-dione
To a solution of 13-(3-hydroxypropyl)-5-methyl-7H-indolo[6,7-a]pyrrolo[3,4-c]-carbazole-6,8-dione (1.18 g, 2.97 mmol) in DMF (45 mL) was added triphenylphosphine (1.17 g, 4.45 mmol) followed by carbon tetrabromide (1.48 g, 4.45 mmol). The resulting solution was allowed to stir at room temperature for 30 min. The solution was diluted with EtOAc (200 mL) and washed with water (2×200 mL) and brine (200 mL). The combined aqueous layers were washed with EtOAc (100 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated to a red-orange solid. Flash chromatography (SiO2, 20% EtOAc/hexanes) gave the title compound (1.05 g, 77%) as an orange solid, mp 238 C. 1H NMR (DMSO-d6)11.15 (s, 1H), 9.16 (d, J=7.5 Hz, 1H), 8.36 (d, J=9 Hz, 1H), 8.04 (d, J=9 Hz, 1H), 7.93 (d, J=7.5 Hz, 1H), 7.60–7.67 (m, 2H), 7.44 (dd, J=7.5, 7.5 Hz, 1H), 6.85 (d, J=3 Hz, 2H), 5.03 (t, J=7 Hz, 2H), 3.85 (s, 3H), 3.72 (t, J=7 Hz, 2H), 2.50 (m, 2H, partially buried under DMSO signal). MS (atmospheric pressure chemical ionization, m/z) 460, 462 [C24H18BrN3O2+H]+.

reactant | 13-(3-hydroxypropyl)-5-methyl-7H-indolo[6,7-a]pyrrolo[3,4-c]-carbazole-6,8-dione | 2.97 mmol, 1.18 g | OCCCC=1C2=CC=NC2=C2C(=C3NC=4C=CC(CC4C3=C3C2=CN(C3=O)C)=O)C1 | C24H19N3O3
reactant | triphenylphosphine | 4.45 mmol, 1.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 4.45 mmol, 1.48 g | C(Br)(Br)(Br)Br | CBr4
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 13-(3-Bromopropyl)-5-methyl-7H-indolo[6,7-a]pyrrolo[3,4-c]-carbazole-6,8-dione | 1.05 g, 77% | BrCCCC=1C2=CC=NC2=C2C(=C3NC=4C=CC(CC4C3=C3C2=CN(C3=O)C)=O)C1 | C24H18BrN3O2
